US06403601B1
(c) Methyl 4-iodo-3-methoxy-5,6,7,8-tetrahydro-2-naphthalenecarboxylate
To a stirred suspension of 4-iodo-3-hydroxy-5,6,7,8-tetrahydro-2-naphthalenecarboxylic acid (23.43 g, 73.65 mmol) in dry acetone (450 mL) was added dimethyl sulfate (17.42 mL, 184.13 mmol) and K2CO3 (25.45 g, 184.13 mmol). The mixture was stirred at reflux overnight, cooled and triethylamine (40 mL) was added. After 0.5 h the mixture was filtered through a pad of diatomaceous earth and the filtrate concentrated in vacuo. The residue was dissolved in ethyl acetate (50 mL) and washed successively with 1N HCl (2×50 mL), sat. aqueous sodium bicarbonate (2×50 mL) and brine (50 mL ), dried (Na2SO4), filtered and concentrated in vacuo to afford a brown oil (22.52 g, 90%). 1H NMR (CDCl3) δ 7.56 (s, 1H), 3.92 (s, 3H), 3.85 (s, 3H), 2.69 (m, 4H), 1.79 (m, 4H). MS m/z 347 (M+H).

reactant | 4-iodo-3-hydroxy-5,6,7,8-tetrahydro-2-naphthalenecarboxylic acid | 73.65 mmol, 23.43 g | IC1=C(C(=CC=2CCCCC12)C(=O)O)O | C11H11IO3
reactant | dimethyl sulfate | 184.13 mmol, 17.42 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | K2CO3 | 184.13 mmol, 25.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | triethylamine | 40 mL | C(C)N(CC)CC | C6H15N
solvent | acetone | 450 mL | CC(=O)C | C3H6O
product | Methyl 4-iodo-3-methoxy-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 22.52 g, 90% | IC1=C(C(=CC=2CCCCC12)C(=O)OC)OC | C13H15IO3
